US05811439
The same procedures used in Example 1 were repeated except for using 4.55 g of 1-bromo-2-ethylbutane and 2.00 g of indole-4-carbaldehyde as a starting material to give 1.92 g of 1-(2-ethylbutyl) indole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 61%.

reactant | 1-bromo-2-ethylbutane | 4.55 g | BrCC(CC)CC | C6H13Br
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | 1-(2-ethylbutyl) indole-4-carbaldehyde | 1.92 g | C(C)C(CN1C=CC=2C(=CC=CC12)C=O)CC | C15H19NO
